US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-2-chloroquinazolin-4-amine
To a solution of 2,4-dichloroquinazoline (1.0 g, 5.024 mmol) in methanol (15 mL) was added 3-(aminomethyl)oxetan-3-amine (855 mg, 60%, 5.024 mmol) and triethylamine (101 mg, 1.005 mmol). After being stirred at room temperature overnight, the mixture was concentrated in vacuo. The residue was purified by flash column chromatography to afford 1.2 g of the desired product as a white solid (yield was 92%).

reactant | 2,4-dichloroquinazoline | 5.024 mmol, 1.0 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 3-(aminomethyl)oxetan-3-amine | 5.024 mmol, 855 mg | NCC1(COC1)N | C4H10N2O
reactant | triethylamine | 1.005 mmol, 101 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 15 mL | CO | CH4O
product | N-[(3-Aminooxetan-3-yl)methyl]-2-chloroquinazolin-4-amine | 1.2 g, yield was 92% | NC1(COC1)CNC1=NC(=NC2=CC=CC=C12)Cl | C12H13ClN4O
